US04402960
5.49 g of 3-fluoroaniline is dissolved in 6.0 g of concentrated sulfuric acid and 120 ml of water and, after the addition of 10 g of ice, diazotized at 0° with a solution of 3.6 g of sodium nitrite in 10 ml of water. The diazonium salt solution is then neutralized with sodium acetate and introduced at 5° under thorough agitation into a solution of 17.2 g of 4,5-bis(4-methoxyphenyl)-2-mercaptoimidazole in 700 ml of dimethylformamide. The mixture is agitated for another 20 minutes, poured into 2.5 l of water, extracted with ethyl acetate, the organic solution washed with water, dried over sodium sulfate, and concentrated to dryness under vacuum. The residue is chromatographed on 500 g of neutral aluminum oxide (activity stage II). Elution with ethyl acetate/hexane produces 7.24 g of 4,5-bis(4-methoxyphenyl)-2-(3-fluorophenylthio)imidazole, mp 147°-149° after recrystallization from ether/ethyl acetate.

reactant | 3-fluoroaniline | 5.49 g | FC=1C=C(N)C=CC1 | C6H6FN
reactant | sodium nitrite | 3.6 g | N(=O)[O-].[Na+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 4,5-bis(4-methoxyphenyl)-2-mercaptoimidazole | 17.2 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)S | C17H16N2O2S
solvent | sulfuric acid | 6.0 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 10 ml | O | H2O
solvent | dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
solvent | water | 2.5 l | O | H2O
solvent | water | 120 ml | O | H2O
product | 4,5-bis(4-methoxyphenyl)-2-(3-fluorophenylthio)imidazole | 7.24 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SC1=CC(=CC=C1)F | C23H19FN2O2S
